US03987047
8,11-Dimethyl-1,2,4,5-tetrahydro-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester was prepared from 8,11-dimethyl-1,2,4,5-tetrahydro-3H-azepino[4,5-b]quinoline and ethyl chloroformate analogous to Example 155. Yield: 79% of theory; m.p. 121° C.

reactant | 8,11-dimethyl-1,2,4,5-tetrahydro-3H-azepino[4,5-b]quinoline | CC=1C=CC=2C(=C3C(=NC2C1)CCNCC3)C | C15H18N2
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | 8,11-Dimethyl-1,2,4,5-tetrahydro-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester | Yield: 79% | C(C)OC(=O)N1CCC2=NC=3C=C(C=CC3C(=C2CC1)C)C | C18H22N2O2
